US09388189B2
(S)-2-(1-((5-(2-Methoxy-5-methyl phenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (60 mg, 0.10 mmol) was treated with (2-methoxy-5-methylphenyl)boronic acid (42 mg, 0.25 mmol), sodium carbonate (26 mg, 0.25 mmols) and bis(triphenylphosphine)palladium(II) dichloride (8 mg, 0.11 mmol) according to the method described in Preparation 62. The residue was purified using SP1® Purification System (0% to 100%, hexane-ethyl acetate) to give 45 mg (70% yield) of the title compound. Purity 94%.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.10 mmol, 60 mg | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C27H32BrN7O2Si
reactant | (2-methoxy-5-methylphenyl)boronic acid | 0.25 mmol, 42 mg | COC1=C(C=C(C=C1)C)B(O)O | C8H11BO3
reactant | sodium carbonate | 0.25 mmols, 26 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.11 mmol, 8 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (S)-2-(1-((5-(2-Methoxy-5-methyl phenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 45 mg, 70% yield | COC1=C(C=C(C=C1)C)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C35H41N7O3Si
